US09145433B2
6-(2-(3-Chloro-4-fluorophenyl)pyridin-3-yl)-3-(1H-pyrazol-3-yl)imidazo[1,2-a]pyridine (Compound 852).
1-(6-(2-(3-Chloro-4-fluorophenyl)pyridin-3-yl)imidazo[1,2-a]pyridin-3-yl)ethan-1-one (300 mg) and DMF.DMA (5 mL) were heated at 95° C. and stirred in a screw capped vial overnight. The reaction mixture was concentrated and the semi-solid residue was diluted with Et2O/hexanes (1:1). The solid was filtered and dried. The enamine (75 mg) and the hydrazine (1.2 eq) were heated in a screw capped vial at 100° C. for 12 h. The reaction mixture was concentrated and purified by preparative HPLC. 1H NMR (300 MHz, DMSO-d6): δ 13.02 (br s), 9.71 (dd, J=1.8, 1.0 Hz, 1H), 8.79 (dd, J=4.8, 1.6 Hz, 1H), 8.62 (s, 1H), 8.06 (dd, J=7.8, 1.7 Hz, 1H), 8.01 (d, J=2.4 Hz, 1H), 7.89 (dd, J=9.3, 0.9 Hz, 1H), 7.74 (dd, J=7.3, 2.1 Hz, 1H), 7.62 (dd, J=7.8, 4.8 Hz, 1H), 7.50 (dd, J=9.3, 1.7 Hz, 1H), 7.37-7.14 (m, 2H), 6.95 (d, J=2.4 Hz, 1H). 19F NMR (282 MHz, DMSO-d6): δ −116.76 (q, J=7.3 Hz). LCMS: rt 4.98 min (A), purity 99%, MS (m/e) 390 MH+.

reactant | 1-(6-(2-(3-Chloro-4-fluorophenyl)pyridin-3-yl)imidazo[1,2-a]pyridin-3-yl)ethan-1-one | 300 mg | ClC=1C=C(C=CC1F)C1=NC=CC=C1C=1C=CC=2N(C1)C(=CN2)C(C)=O | C20H13ClFN3O
reactant | DMF | CN(C)C=O | C3H7NO
reactant | hydrazine | 1.2 eq | NN | H4N2
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
product | 6-(2-(3-Chloro-4-fluorophenyl)pyridin-3-yl)-3-(1H-pyrazol-3-yl)imidazo[1,2-a]pyridine | ClC=1C=C(C=CC1F)C1=NC=CC=C1C=1C=CC=2N(C1)C(=CN2)C2=NNC=C2 | C21H13ClFN5
